US05382590
1.5 g of m-chloroperbenzoic acid in solution in 10 cm3 of methylene chloride is run, in the course of 10 minutes, into a solution of 1.1 g of 2-[3-(3-methylthiophenyl)ureido]-N-[2-oxo-2-(1,2,3,4-tetrahydro-1-quinolyl)ethyl]-N-phenylacetamide in 10 cm3 of methylene chloride kept at a temperature close to 0° C. The mixture is stirred for 2 hours at a temperature close to 25° C and then diluted with 25 cm3 of methylene chloride. The solution is washed with 20 cm3 of a saturated aqueous sodium thiosulphate solution, 20 cm3 of a saturated aqueous sodium bicarbonate solution and then 20 cm3 of a saturated aqueous sodium chloride solution. The organic phase is dried over magnesium sulphate and concentrated to dryness under reduced pressure (2.7 kPa) at 40° C. The crude product obtained is purified by chromatography on 40 g of silica (0,062-0,200 mm) contained in a column 1.2 cm in diameter [eluent: ethyl acetate/methanol (95/5 by volume)], collecting 10 cm3 fractions. Fractions 6 to 13 are combined and concentrated to dryness under reduced pressure (2.7 kPa) at 40° C. After recrystallization from a diisopropyl ether/ethyl acetate mixture (90/10 by volume), 0.5 g of (RS)-2-[3-(3-methylsulphinylphenyl)ureido]-N-[2-oxo-2-(1,2,3,4-tetrahydro-1-quinolyl)ethyl]-N-phenylacetamide melting at 140° C is obtained.

reactant | m-chloroperbenzoic acid | 1.5 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 2-[3-(3-methylthiophenyl)ureido]-N-[2-oxo-2-(1,2,3,4-tetrahydro-1-quinolyl)ethyl]-N-phenylacetamide | 1.1 g | CSC=1C=C(C=CC1)NC(NCC(=O)N(C1=CC=CC=C1)CC(N1CCCC2=CC=CC=C12)=O)=O | C27H28N4O3S
solvent | methylene chloride | 10 cm3 | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 cm3 | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 25 cm3 | C(Cl)Cl | CH2Cl2
product | (RS)-2-[3-(3-methylsulphinylphenyl)ureido]-N-[2-oxo-2-(1,2,3,4-tetrahydro-1-quinolyl)ethyl]-N-phenylacetamide | 0.5 g | CS(=O)C=1C=C(C=CC1)NC(NCC(=O)N(C1=CC=CC=C1)CC(N1CCCC2=CC=CC=C12)=O)=O | C27H28N4O4S
